US07557114B2
(a) 5-Trifluoromethyl-6-vinyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
To a stirred solution 0.61 mmol 5-iodo-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A35(d)) in 3 ml dioxane were added 0.04 mmol palladium(II) acetate and 0.18 mmol triphenylarsine and the mixture was stirred at RT for 10 min. 0.91 mmol vinyltributylstannane was then added and the mixture was heated at 100° C. for 16 h. The reaction mixture was then cooled to room temperature, filtered, and the filtrate was concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a yellow solid (93% yield). MS (m/e): 258.0 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-iodo-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)I)C(F)(F)F | C14H15F3INO2
reactant | triphenylarsine | 0.18 mmol | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | vinyltributylstannane | 0.91 mmol | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.04 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Trifluoromethyl-6-vinyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 93% yield | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C(F)(F)F)C=C | C16H18F3NO2
